US08404856B2
Step 4: 5-{[2-oxo-1-(1H-pyrazolo[3,4-b]pyridine-3-ylmethyl)-4-(trifluoromethyl)-1,2-dihydropyridin-3-yl]oxy}isophthalonitrile 18-4
5-{[2-oxo-4-(trifluoromethyl)-1,2-dihydropyridin-3-yl]oxy}isophthalonitrile (0.076 g, 0.249 mmol), tert-butyl 3-(bromomethyl)-1H-pyrazolo[3,4-b]pyridine-1-carboxylate (0.078 g, 0.249 mmol) and potassium carbonate (0.034 g, 0.249 mmol) were combined and diluted with dimethylformamide (1 mL) and stirred at room temperature. After 16 hours, water (10 mL) was added and the mixture was extracted with ethyl acetate (2×25 mL). The combined organic extracts were washed with brine (3×25 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The resulting solid was dissolved in TFA. After 30 minutes, the solution was concentrated. The resulting solid was suspended in methanol and filtered to afford the title compound as a solid. 1H NMR (DMSO-d6) δ 8.52 (d, J=4.6 Hz, 1H), 8.17-8.17 (m, 1H), 8.15 (d, J=8.2 Hz, 1H), 8.06 (d, J=7.1 Hz, 1H), 7.98 (m, 2H), 7.18 (dd, J=8.2 Hz, J=4.7 Hz, 1H), 6.65 (d, J=7.3 Hz, 1H), 5.52 (s, 2H). HRMS (M+1)=437.0981.

reactant | 5-{[2-oxo-4-(trifluoromethyl)-1,2-dihydropyridin-3-yl]oxy}isophthalonitrile | 0.249 mmol, 0.076 g | O=C1NC=CC(=C1OC=1C=C(C=C(C#N)C1)C#N)C(F)(F)F | C14H6F3N3O2
reactant | tert-butyl 3-(bromomethyl)-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | 0.249 mmol, 0.078 g | BrCC1=NN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C12H14BrN3O2
reactant | potassium carbonate | 0.249 mmol, 0.034 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 mL | O | H2O
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 5-{[2-oxo-1-(1H-pyrazolo[3,4-b]pyridine-3-ylmethyl)-4-(trifluoromethyl)-1,2-dihydropyridin-3-yl]oxy}isophthalonitrile | O=C1N(C=CC(=C1OC=1C=C(C=C(C#N)C1)C#N)C(F)(F)F)CC1=NNC2=NC=CC=C21 | C21H11F3N6O2
